US09029388B2
E) 3-Ethyl-1-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[3,4-b]pyridine
To a mixture of 4-(3-ethyl-1H-pyrazolo[3,4-b]pyridin-1-yl)phenol (120 mg), sodium hydride (60% in oil, 21.0 mg) and DMF (5.0 ml) was added 2-chloro-1-methyl-1H-benzimidazole (84 mg), and the mixture was stirred under microwave irradiation at 180° C. for 1 hr. The reaction mixture was diluted with methanol, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (100 mg).

reactant | 4-(3-ethyl-1H-pyrazolo[3,4-b]pyridin-1-yl)phenol | 120 mg | C(C)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)O | C14H13N3O
reactant | sodium hydride | 21.0 mg | [H-].[Na+]
reactant | DMF | 5.0 ml | CN(C)C=O | C3H7NO
reactant | 2-chloro-1-methyl-1H-benzimidazole | 84 mg | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
solvent | methanol | CO | CH4O
product | 3-Ethyl-1-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[3,4-b]pyridine | 100 mg | C(C)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2C)C=CC=C1 | C22H19N5O
